US05366989
In 1 ml of ethanol was dissolved 100 mg of ethyl 3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyrate. To the resulting solution was added 330 mg of 2,6-dimethylmorpholine. The resulting mixture was subjected to reaction for 2 hours under reflux. Then, the reaction mixture was introduced into a mixed solvent consisting of 20 ml of ethyl acetate and 10 ml of water. The resulting solution was adjusted to pH 2.0 with 6N hydrochloric acid. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. Thereafter, the solvent was removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluant: chloroform) to obtain 10 mg of 4-[3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanoyl]-2,6-dimethylmorpholine.

reactant | ethyl 3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyrate | 100 mg | FC1=C(C=CC(=C1)F)C(C(C(=O)OCC)(F)F)(CN1N=CN=C1)O | C14H13F4N3O3
reactant | 2,6-dimethylmorpholine | 330 mg | CC1CNCC(O1)C | C6H13NO
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 4-[3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanoyl]-2,6-dimethylmorpholine | 10 mg | FC1=C(C=CC(=C1)F)C(C(C(=O)N1CC(OC(C1)C)C)(F)F)(CN1N=CN=C1)O | C18H20F4N4O3
